US08084623B2
To a stirred solution of 2-benzyl-2-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.145 g, 0.259 mmol) in THF (5 mL) at ambient temperature under nitrogen was added TMAF (0.026 g, 0.285 mmol). After one hour, the reaction mixture was concentrated in vacuo. Purification of the residue by chromatography (silica, 25-50% EtOAc in hexanes) gave 2-benzyl-2-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.045 g, 0.111 mmol, 43%) as a colourless foam.

reactant | 2-benzyl-2-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.259 mmol, 0.145 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C(=O)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CC1=CC=CC=C1 | C34H48N2O3Si
reactant | TMAF | 0.285 mmol, 0.026 g | C[N+](C)(C)C.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-benzyl-2-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.111 mmol, 0.045 g, 43% | C(C)(C)(C)OC(=O)N1C(CCC1)(C(=O)C=1C=C2C=CNC2=CC1)CC1=CC=CC=C1 | C25H28N2O3
